data/mechanism_extracts/NatProtoc/10.1038_s41596-018-0010-0.json
{"doi": "10.1038_s41596-018-0010-0", "journal": "NatProtoc", "is_review": false, "rxn_class_summary": "Mn-catalyzed electrochemical 1,2-diazidation of alkenes using NaN3 as the azide source under anodic oxidation conditions", "mechanism_family": ["electrocatalysis_inner_sphere", "radical_anodic", "mediator_anodic"], "electrochemical_role": "Anodic oxidation regenerates [Mn(III)]–N3 from [Mn(II)]; Mn mediator lowers the potential required to oxidize N3- to an azidyl radical equivalent that is delivered to the alkene", "key_intermediates": [{"name": "[Mn(III)]-N3 azide-bound manganese(III) species", "smiles": null, "role": "reactive"}, {"name": "beta-azido carbon-centered radical (from azidyl addition to alkene)", "smiles": null, "role": "transient"}, {"name": "[Mn(II)] reduced manganese species (resting after azidyl transfer)", "smiles": null, "role": "resting_state"}, {"name": "1,2-diazide product", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes [Mn(II)] to [Mn(III)]-N3, which delivers an azidyl radical to the alkene generating a C-centered radical; a second [Mn(III)]-N3 (regenerated by anodic oxidation with N3-) transfers a second azide to the carbon radical to give the 1,2-diazide.", "rate_determining_step": null, "probe_reagents": [{"name": "cell potential variation (Ecell 1.9-2.3 V)", "smiles": null, "purpose": "redox_probe", "observation": "Lowering Ecell from 2.3 V to 1.9 V with 10 mol% MnBr2·4H2O improves selectivity (16:17 from 3:1 to 7:1) and isolated yield (from <10% to 60%), consistent with controlled anodic oxidation of Mn/N3-"}], "evidence_types_used": ["on/off_light_or_current", "other"], "evidence_strength": "weak", "notes": "Mechanism is proposed (Fig. 2d) without explicit radical traps, KIE, EPR, or DFT shown on these pages. A major byproduct (17, a triazide) suggests overoxidation/competing radical pathways at higher potentials. The Mn catalyst plays a dual role: lowering the oxidation potential of N3- and chemoselectively delivering azidyl first to the alkene and then to the C-radical, accounting for tolerance of oxidatively sensitive FGs (alcohols, aldehydes, sulfides, amines, ferrocenes)."}
